US09303028B2
2-fluoro-N-methyl-4-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)benzamide
A mixture of 2-(3-(3-chloropyrazin-2-yl)azetidin-1-yl)quinoline (0.072 g, 0.243 mmol; see preparation in WO2011143365), (3-fluoro-4-(methylcarbamoyl)phenyl)boronic acid (0.076 g, 0.388 mmol, Combi-blocks), potassium phosphate (0.129 g, 0.607 mmol, Alfa Aesar), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium (II) (0.017 g, 0.024 mmol, Aldrich), water (0.3 mL) and dioxane (1.2 mL) was purged with Argon gas. The mixture was heated at 100° C. for 30 min in microwave reactor, then the heating was stopped and the mixture was cooled to room temperature. The mixture was diluted with saturated Na2CO3 and extracted with EtOAc three times. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude was purified by silica gel chromatography (12 g, 0%-100% EtOAc-CH2Cl2). The product was further purified by reverse phase HPLC (Shimazu; Gemini 10 μM C18 110A AXIA, 100×50 mm column, 10-55% MeCN in water with 0.1% TFA in 26 min). The collected fractions were neutralized with solid Na2CO3 and extracted with CH2Cl2 three times. The organic phase was dried over Na2SO4 and concentrated in vacuo. The product was obtained as a white solid (73 mg, 73%). 1H NMR (400 MHz, chloroFORM-d) δ ppm 3.10 (d, J=4.69 Hz, 3 H) 4.30-4.55 (m, 5 H) 6.63 (d, J=8.80 Hz, 1 H) 6.83 (d, J=7.04 Hz, 1 H) 7.23 (t, J=7.34 Hz, 1 H) 7.37 (d, J=12.32 Hz, 1 H) 7.42 (dd, J=8.02, 1.17 Hz, 1 H) 7.50-7.57 (m, 1 H) 7.61 (d, J=7.82 Hz, 1 H) 7.73 (d, J=8.41 Hz, 1 H) 7.89 (d, J=8.80 Hz, 1 H) 8.28 (t, J=8.02 Hz, 1 H) 8.57 (d, J=2.35 Hz, 1 H) 8.64 (d, J=2.35 Hz, 1 H). m/z=414 (M+1).

reactant | 2-(3-(3-chloropyrazin-2-yl)azetidin-1-yl)quinoline | 0.243 mmol, 0.072 g | ClC=1C(=NC=CN1)C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C16H13ClN4
reactant | (3-fluoro-4-(methylcarbamoyl)phenyl)boronic acid | 0.388 mmol, 0.076 g | FC=1C=C(C=CC1C(NC)=O)B(O)O | C8H9BFNO3
reactant | potassium phosphate | 0.607 mmol, 0.129 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 0.3 mL | O | H2O
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium (II) | 0.024 mmol, 0.017 g | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | 2-fluoro-N-methyl-4-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)benzamide | 73 mg, 73% | FC1=C(C(=O)NC)C=CC(=C1)C1=NC=CN=C1C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C24H20FN5O
